US09260439B2
Step 5: Preparation of 5-{2-[(3S)-3-methylmorpholin-4-yl]-7-[1-(propan-2-ylsulfonyl)azetidin-3-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine
To a suspension of 5-{7-(azetidin-3-yl)-2-[(3S)-3-methylmorpholin-4-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine dihydrochloride (100 mg, 0.20 mmol) in DCM (5.0 mL) was added DIPEA (0.2 mL, 1.15 mmol). After a few minutes, the mixture became almost homogeneous, and a fine precipitation began to form. The reaction mixture was cooled to 0° C. and isopropylsulfonyl chloride (0.023 mL, 0.21 mmol) was added. The mixture was stirred at 0° C. for 45 min resulting in an amber solution. The mixture was concentrated to a minimum volume and the residue was purified by SFC column to give 50.4 mg (51%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.74 (s, 2 H), 6.98 (s, 2 H), 4.80 (p, J=7.2 Hz, 1 H), 4.68-4.59 (m, 1H), 4.29-4.21 (m, 3 H), 3.98 (dt, J=7.9, 4.4 Hz, 2 H), 3.88 (dd, J=11.1, 3.0 Hz, 1 H), 3.72-3.65 (m, 3 H), 3.56 (dd, J=11.3, 2.9 Hz, 1 H), 3.40 (dt, J=11.7, 2.8 Hz, 1 H), 3.28-3.21 (m, 1H, partially overlapped with water), 3.15 (t, J=8.2 Hz, 2 H), 3.07 (dt, J=12.9, 3.7 Hz, 1 H), 1.24 (d, J=6.8 Hz, 6 H), 1.16 (d, J=6.7 Hz, 3 H). m/z (APCI+) for C21H30N8O3S 475.2 (M+H)+.

reactant | 5-{7-(azetidin-3-yl)-2-[(3S)-3-methylmorpholin-4-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine dihydrochloride | 0.20 mmol, 100 mg | Cl.Cl.N1CC(C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2[C@H](COCC2)C
reactant | DIPEA | 1.15 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropylsulfonyl chloride | 0.21 mmol, 0.023 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5-{2-[(3S)-3-methylmorpholin-4-yl]-7-[1-(propan-2-ylsulfonyl)azetidin-3-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine | 50.4 mg, 51% | C[C@@H]1N(CCOC1)C=1N=C(C2=C(N1)N(CC2)C2CN(C2)S(=O)(=O)C(C)C)C=2C=NC(=NC2)N | C21H30N8O3S
